US09278972B2
Preparation of tert-Butyl ((3aS,4R,6S,6aR)-6-(2-(benzyloxy)ethoxy)-2,2-dimethyl-tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)carbamate (IIIc)
A solution of tert-butyl ((3aS,4R,6S,6aR)-6-hydroxy-2,2-dimethyltetrahydro-3aH-cyclopenta[d]-[1,3]dioxol-4-yl)carbamate (3.0 g, 10.8 mmol) in dry DMF (30 mL) under nitrogen atmosphere was cooled at 0° C. followed by addition of NaH (60%, 530 mg, 13.0 mmol). After stirring for 30 min at 0° C., 2-(benzyloxy)ethyl 4-methylbenzenesulfonate (3.3 g, 10.8 mmol) was added and the reaction mixture was allowed to warm at room temperature. After stirring for 4 hours, the reaction mixture was quenched with water (30 mL). To the mixture was extracted 3×30 mL of n-hexane. The combined organic phases were dried over MgSO4, filtered and evaporated to the dryness. The pure IIIc was isolated from reaction mixture by chromatography on silica gel column (mobile phase: n-hexane/EtOAc).

reactant | tert-butyl ((3aS,4R,6S,6aR)-6-hydroxy-2,2-dimethyltetrahydro-3aH-cyclopenta[d]-[1,3]dioxol-4-yl)carbamate | 10.8 mmol, 3.0 g | O[C@H]1C[C@H]([C@H]2[C@@H]1OC(O2)(C)C)NC(OC(C)(C)C)=O | C13H23NO5
reactant | NaH | 13.0 mmol, 530 mg | [H-].[Na+]
reactant | 2-(benzyloxy)ethyl 4-methylbenzenesulfonate | 10.8 mmol, 3.3 g | CC1=CC=C(C=C1)S(=O)(=O)OCCOCC1=CC=CC=C1 | C16H18O4S
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | tert-Butyl ((3aS,4R,6S,6aR)-6-(2-(benzyloxy)ethoxy)-2,2-dimethyl-tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)carbamate | C(C1=CC=CC=C1)OCCO[C@H]1C[C@H]([C@H]2[C@@H]1OC(O2)(C)C)NC(OC(C)(C)C)=O | C22H33NO6
